US05321135
Synthesis of 3-(3,4,5-trimethoxyphenyl)propan-1-ol
A solution of methyl 3-(3,4,5-trimethoxyphenyl)propanoate (11.03 g, 0.043 mol) in tetrahydrofuran (20 ml) was added dropwise to a suspension of lithium aluminum hydride (1.6 g, 0.042 mol) in 20 ml of tetrahydrofuran, said suspension having been cooled to 0° C., followed by stirring at room temperature for 19 hours. After the addition of sodium sulfate decahydrate, the resulting mixture was stirred further at room temperature for one hour. Insoluble matter was removed by filtration and the filtrate was concentrated, whereby 9.5 g of the title compound were obtained as colorless oil (yield: 96.8%).

reactant | methyl 3-(3,4,5-trimethoxyphenyl)propanoate | 0.043 mol, 11.03 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)OC | C13H18O5
reactant | lithium aluminum hydride | 0.042 mol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3,4,5-trimethoxyphenyl)propan-1-ol | 9.5 g | COC=1C=C(C=C(C1OC)OC)CCCO | C12H18O4
